US05834506
Bis[2-(1,1-dimethylethyl)-4-[2-(methoxymethoxy)ethoxy]-5-methylphenyl]disulfide
The title compound was prepared using 7.0 g (29 mmol) of 2-{5-tert-butyl-4-[2-tert-butyl-4-(2-hydroxy-ethoxy)-5-methyl-phenyldisulfanyl]-2-methyl-phenoxy}ethanol (prepared in Example MMM), 200 mL of CH2Cl2, 15.2 g (118 mmol) of diisopropylethylamine and 9.45 g (118 mmol) of chloromethyl methyl ether. The reagents were mixed at 0° C. and stirred at that temperature for 1 hour. The reaction mixture was warmed to room temperature and stirred for 15 hours, then diluted with EtOAc and quenched with 1N HCl. The organic layer was washed with sodium bicarbonate solution and brine and dried (MgSO4). The solvents were removed, and the residue was subjected to flash silica gel chromatography, eluting with EtOAc:hexane (5:95, then switching to 1:4).

reactant | 2-{5-tert-butyl-4-[2-tert-butyl-4-(2-hydroxy-ethoxy)-5-methyl-phenyldisulfanyl]-2-methyl-phenoxy}ethanol | 29 mmol, 7.0 g | C(C)(C)(C)C=1C(=CC(=C(OCCO)C1)C)SSC1=C(C=C(C(=C1)C)OCCO)C(C)(C)C | C26H38O4S2
reactant | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
reactant | diisopropylethylamine | 118 mmol, 15.2 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | chloromethyl methyl ether | 118 mmol, 9.45 g | COCCl | C2H5ClO
reactant | EtOAc | CCOC(=O)C | C4H8O2
product | Bis[2-(1,1-dimethylethyl)-4-[2-(methoxymethoxy)ethoxy]-5-methylphenyl]disulfide | CC(C)(C)C1=C(C=C(C(=C1)OCCOCOC)C)SSC1=C(C=C(C(=C1)C)OCCOCOC)C(C)(C)C | C30H46O6S2
